US07109354B2
The nitrating mixture (HNO3 d=1.42, 2 mL; concentrated H2SO4, 6 mL) was slowly added with stirring, at −5 to −10° C., to 4-Bromothiophene-2-carboxylic acid methyl ester (3 g, 13.57 mmol) dissolved in concentrated H2SO4 (10 mL). After being kept at −5 to −10° C. for 30 min. the mixture was poured over crushed ice. The solid precipitate was separated by filtration and washed with water and dried over P2O5 to give 3.7 g of 4-bromo-5-nitrothiophene-2-carboxylic acid methyl ester as a tan solid, which was used in the next step without further purification.

reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
reactant | 4-Bromothiophene-2-carboxylic acid methyl ester | 13.57 mmol, 3 g | COC(=O)C=1SC=C(C1)Br | C6H5BrO2S
solvent | H2SO4 | 10 mL | OS(=O)(=O)O | H2O4S
product | 4-bromo-5-nitrothiophene-2-carboxylic acid methyl ester | 3.7 g | COC(=O)C=1SC(=C(C1)Br)[N+](=O)[O-] | C6H4BrNO4S
